US07989457B2
4-Bromo-3-methyl-benzoic acid methyl ester (6 g, 26.19 mmol) was dissolved into anhydrous tetrahydrofuran (THF) (200 mL) and then cooled to −30° C. while stirring under nitrogen. N,O-dimethylhydroxylamine hydrochloride (3.81 g, 39.29 mmol) was then added to the solution in one portion. Isopropyl magnesium chloride (39 mL, 2M soln. in THF, 78.6 mmol) was slowly added to the cooled suspension over 1 h. After complete consumption of starting material, then 30% solution of ammonium chloride was added with stirring. The reaction was diluted with diethyl ether and extracted. The organic layer was collected and washed with cold water (2×) and brine. The solution was then dried over anhydrous sodium sulfate, filtered, and concentrated. The 4-Bromo-N-methoxy-3,N-dimethyl-benzamide (5.94 g, 23.05 mmol) was obtained in purified form after flash column chromatography.

reactant | 4-Bromo-3-methyl-benzoic acid methyl ester | 26.19 mmol, 6 g | COC(C1=CC(=C(C=C1)Br)C)=O | C9H9BrO2
reactant | N,O-dimethylhydroxylamine hydrochloride | 39.29 mmol, 3.81 g | Cl.CNOC
reactant | Isopropyl magnesium chloride | 78.6 mmol, 2M, 39 mL | C(C)(C)[Mg]Cl
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | 4-Bromo-N-methoxy-3,N-dimethyl-benzamide | 23.05 mmol, 5.94 g | BrC1=C(C=C(C(=O)N(C)OC)C=C1)C | C10H12BrNO2
